US05506267
A solution of 4-[6,7-bis(palmitoyloxy)-4-thiaheptanoylamino]benzoic acid t-butyl ester as obtained in Example 45 (1.05 g) in chloroform (5 ml)-trifiuoroacetic acid (6 ml) was stirred at room temperature for 2 hours. The solvent was distilled off under reduced pressure, and the residue was crystallized from methanol-water to yield 4-[6,7-bis(palmitoyloxy)-4-thiaheptanoylamino]benzoic acid (992 mg, yield 100%) as a colorless crystal. A solution of 4-[6,7-bis(palmitoyloxy)-4-thiaheptanoylamino]benzoic acid as obtained above (200 mg), 7-t-butyl ester-glutamyl-glutamic acid di-t-butyl ester as obtained in Reference Example 26 (126 mg), DEPC (63 mg) and triethylamine (78 mg) in dimethylformarnide (6 ml) was stirred at room temperature for 30 minutes. The solvent was concentrated; the resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate:chloroform=2:1) to yield the title compound (210 mg, yield 68%) as a colorless amorphous substance.

reactant | 4-[6,7-bis(palmitoyloxy)-4-thiaheptanoylamino]benzoic acid t-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)NC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)=O | C49H85NO7S
reactant | trifiuoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[6,7-bis(palmitoyloxy)-4-thiaheptanoylamino]benzoic acid | 992 mg, yield 100% | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)NC1=CC=C(C(=O)O)C=C1)COC(CCCCCCCCCCCCCCC)=O | C45H77NO7S
